US05688996
Practical Synthesis of Ethylene Aspartate Cysteate (Aspartic:Cysteic Ratio=25:75)
A 500 ml three necked round bottom flask equipped with a mechanical stirrer, thermometer and reflux condenser was charged with 3.54 g (0.0266 mol) L-aspartic acid, 14.94 g (0.0798 mol) L-cysteic acid and 133 ml water. Add 8.51 g (0.2128 mol) sodium hydroxide and 5.64 g (0.0532 mol) sodium carbonate with moderate stirring. The reaction mixture exotherms to about 40° C. After all has dissolved, add 80 ml ethanol and 12.5 g (0.0665 mol) ethylene dibromide. Heat the reaction mixture to reflux (~84° C.) for 24 hours. Replace the reflux condenser with a short path distillation head and distill off the ethanol and excess ethylene dibromide. Place the flask in a water bath, heat to 70° C. and remove trace amounts of ethylene dibromide under high vacuum. The crude yield of the reaction mixture was 34.6 g. This mixture was determined to contain salt, L-aspartic acid disodium salt, L-cysteic acid disodium salt, Na4EDC, Na4EDDS and Na4EAC. The purity of this product was found to be about 50-70% sequestrant by C13 nuclear magnetic resonance analysis.

reactant | L-aspartic acid | 0.0266 mol, 3.54 g | N[C@@H](CC(=O)O)C(=O)O | C4H7NO4
reactant | L-cysteic acid | 0.0798 mol, 14.94 g | N[C@@H](CS(=O)(O)=O)C(=O)O | C3H7NO5S
reactant | sodium hydroxide | 0.2128 mol, 8.51 g | [OH-].[Na+]
reactant | sodium carbonate | 0.0532 mol, 5.64 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethylene dibromide | 0.0665 mol, 12.5 g | C(CBr)Br | C2H4Br2
solvent | ethanol | 80 ml | C(C)O | C2H6O
solvent | water | 133 ml | O | H2O
product | Ethylene Aspartate Cysteate | N[C@@H](CS(=O)(O)=O)C(=O)O.N[C@H]1CC(=O)OCCOC1=O | InChI=1S/C6H9NO4.C3H7NO5S/c7-4-3-5(8)10-1-2-11-6(4)9;4-2(3(5)6)1-10(7,8)9/h4H,1-3,7H2;2H,1,4H2,(H,5,6)(H,7,8,9)/t4-;2-/m00/s1
